US07105682B2
N-[4-tert-Butyl-3-(1-Boc-piperidin-4-ylamino)-phenyl]-2-(1H-indazol-6-ylamino)-nicotinamide
The title compound was prepared from N-(3-amino-4-tert-butyl-phenyl)-2-(1H-indazol-6-ylamino)-nicotinamide and Boc-piperidin-4-one by a method analogous to that described in Example 42. MS (ES+): 584 (M+H), Calc'd for C33H41N7O3—583.7.

reactant | N-(3-amino-4-tert-butyl-phenyl)-2-(1H-indazol-6-ylamino)-nicotinamide | NC=1C=C(C=CC1C(C)(C)C)NC(C1=C(N=CC=C1)NC1=CC=C2C=NNC2=C1)=O | C23H24N6O
reactant | Boc-piperidin-4-one | C(=O)(OC(C)(C)C)N1CCC(CC1)=O | C10H17NO3
product | N-[4-tert-Butyl-3-(1-Boc-piperidin-4-ylamino)-phenyl]-2-(1H-indazol-6-ylamino)-nicotinamide | C(C)(C)(C)C1=C(C=C(C=C1)NC(C1=C(N=CC=C1)NC1=CC=C2C=NNC2=C1)=O)NC1CCN(CC1)C(=O)OC(C)(C)C | C33H41N7O3
